US07728014B2
(Z)-3-Hydroxy-2,3-diphenyl-propenal (105).
To a cooled solution of NaOEt (763 mg, 11.21 mmol) in EtOH (100 ml) was added ethyl formate (0.91 ml, 11.21 mmol) dropwise. The resulting mixture is allowed to stand for 3 hours at 0 to 5° C., and then deoxybenzoin (2 g, 10.19 mmol) was added. The mixture was stirred for 2 hours at 0 to 5° C. and then placed in the refrigerator for 4 days. After the mixture was stirred overnight at room temperature, it was poured into ice-water, and acidified, and extracted with CH2Cl2. The organic layer was washed with brine, and dried over MgSO4 anhydride, and concentrated in vacuo. The residue was purified by column chromatography (10% ethyl acetate in hexane) to give the title compound as a light yellow solid.

reactant | NaOEt | 11.21 mmol, 763 mg | CC[O-].[Na+]
reactant | ethyl formate | 11.21 mmol, 0.91 ml | C(=O)OCC | C3H6O2
reactant | deoxybenzoin | 10.19 mmol, 2 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
solvent | EtOH | 100 ml | CCO | C2H6O
product | (Z)-3-Hydroxy-2,3-diphenyl-propenal | O\C(=C(/C=O)\C1=CC=CC=C1)\C1=CC=CC=C1 | C15H12O2
